US04504305
EXAMPLE 19: 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(4-methylthiophenyl)-2-cyclohexen-1-one
Into 20 ml of ethanol was dissolved 2.9 g of 3-hydroxy-5-(4-methylthiophenyl)-2-propionyl-2-cyclohexen-1-one and to the solution was added 0.8 g of ethoxyamine. The mixture was kept for 15 hours at room temperature and it was poured into ice water. The crystal sedimented was collected with a filtering step and recrystallized with methanol. Thus, 3.1 g of colorless objective crystals having a melting point of 83°-84° C. was obtained.

reactant | 3-hydroxy-5-(4-methylthiophenyl)-2-propionyl-2-cyclohexen-1-one | 2.9 g | OC1=C(C(CC(C1)C1=CC=C(C=C1)SC)=O)C(CC)=O | C16H18O3S
reactant | ethoxyamine | 0.8 g | C(C)ON | C2H7NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(4-methylthiophenyl)-2-cyclohexen-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)SC)=O | C18H23NO3S
